US05629406
1-[(2S,3S)-3-{N2 -[4-(Benzyloxycarbonylamino)phenoxyacetyl]-L-asparaginyl}amino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide
Following a procedure similar to that described in Example 14, but using 99.8 mg (0.33 mmol) of 4-(benzyloxycarbonylamino)phenoxyacetic acid (prepared as described in Preparation 15) and 150 mg (0.30 mmol) of 1-[(2S,3S)-3-(L-asparaginylamino)-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide hydrochloride {prepared by treating 1-[(2S,3S)-3-(N2 -t-butoxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide, the compound prepared as described in Example 15, with a 4N solution of hydrogen chloride in dioxane), 164 mg of the title compound were obtained as a white powder, melting at 103°-105° C.

reactant | 4-(benzyloxycarbonylamino)phenoxyacetic acid | 0.33 mmol, 99.8 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(OCC(=O)O)C=C1 | C16H15NO5
reactant | 1-[(2S,3S)-3-(L-asparaginylamino)-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide hydrochloride | 0.30 mmol, 150 mg | Cl.N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)CCC1)O)CC1=CC=CC=C1
reactant | 1-[(2S,3S)-3-(N2 -t-butoxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)CCC1)O)CC1=CC=CC=C1 | C28H43N5O7
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[(2S,3S)-3-{N2 -[4-(Benzyloxycarbonylamino)phenoxyacetyl]-L-asparaginyl}amino-2-hydroxy-4-phenylbutyryl]-N-t-butyl-L-prolinamide | 164 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(OCC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N2[C@H](C(=O)NC(C)(C)C)CCC2)O)CC2=CC=CC=C2)C=C1 | C39H48N6O9
